US07476666B2
Step 2: Dimethyl 4-benzyloxy-1-[cyano(phenyl)methyl]-1H-pyrazole-3,5-dicarboxylate
A solution of dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate (1.0 g, 3.45 mmol) and bromo(phenyl)acetonitrile (810 mg, 4.13 mmol) in anhydrous DMF was treated with Cs2CO3 (1.46 g, 4.48 mmol) and stirred at room temperature for 3 days. The solvent was removed in vacuo and the residue was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc several times, and the combined organic layers were dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified by flash column chromatography on silica gel using a gradient elution of 0-20% EtOAc/hexanes. Collection and concentration of the appropriate fractions yielded the title product as a yellow oil. 1H NMR (400 MHz, d6-DMSO) δ 7.70 (s, 1H), 7.50-7.45 (m, 3H), 7.43-7.29 (m, 7H), 5.08 (s, 2H), 3.86 (s, 3H), 3.81 (s, 3H); ES MS (M+1)=406.

reactant | dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | 3.45 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)OC)C(=O)OC | C14H14N2O5
reactant | bromo(phenyl)acetonitrile | 4.13 mmol, 810 mg | BrC(C#N)C1=CC=CC=C1 | C8H6BrN
reactant | Cs2CO3 | 4.48 mmol, 1.46 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Dimethyl 4-benzyloxy-1-[cyano(phenyl)methyl]-1H-pyrazole-3,5-dicarboxylate | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)C(C1=CC=CC=C1)C#N)C(=O)OC | C22H19N3O5
